US07405305B2
3-(4-Hydroxybenzofur-7-yl)-4-[1-(3-hydroxypropyl)-1H-indol-3-yl]pyrrole-2,5-dione
Dissolve 3-(4-methoxybenzofur-7-yl)-4-[1-(3-hydroxypropyl)-1H-indol-3-yl]pyrrole-2,5-dione (0.1 g, 0.24 mmol) in 2.5 mL dichloromethane under nitrogen at −78° C. Add boron tribromide (0.11 mL, 1.16 mmol, 5 equiv) dropwise and stir at −78° C. for 1 hr, warm to room temperature and stir for 1 hr. Quench the reaction with ice and then extract with ethyl acetate. Washed the organics with brine, dry over sodium sulfate, filter, and concentrate in vacuo. Purification by column chromatography (25% ethyl acetate: hexanes to 50% ethyl acetate: hexanes) afforded 0.050 g (52%) of the title product. High Res. Mass Spec (m/z): Calcd 403.1301 Found 403.1294.

reactant | 3-(4-methoxybenzofur-7-yl)-4-[1-(3-hydroxypropyl)-1H-indol-3-yl]pyrrole-2,5-dione | 0.24 mmol, 0.1 g | COC1=CC=C(C2=C1C=CO2)C=2C(NC(C2C2=CN(C1=CC=CC=C21)CCCO)=O)=O | C24H20N2O5
reactant | boron tribromide | 1.16 mmol, 0.11 mL, 5 equiv | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
product | 3-(4-Hydroxybenzofur-7-yl)-4-[1-(3-hydroxypropyl)-1H-indol-3-yl]pyrrole-2,5-dione | 0.050 g, 52% | OC1=CC=C(C2=C1C=CO2)C=2C(NC(C2C2=CN(C1=CC=CC=C21)CCCO)=O)=O | C23H18N2O5
